US06235731B1
5) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethylj-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride
In 2 ml of methanol was dissolved 0.305 g of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide, followed by addition of a stoichiometric excess of methanolic hydrochloric acid. The mixture was stirred and concentrated and the residue was crystallized from ethanol-diethyl ether to provide the title compound.

reactant | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide | 0.305 g | C1(=CC=CC=C1)CCCN1CCC(CC1)CNC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O | C27H30N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethylj-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CNC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C27H30N4OS.2ClH/c32-26(12-11-24-18-23-20-28-25-9-4-10-27(33-24)31(23)25)29-19-22-13-16-30(17-14-22)15-5-8-21-6-2-1-3-7-21;;/h1-4,6-7,9-12,18,20,22H,5,8,13-17,19H2,(H,29,32);2*1H
